US08871753B2
Step C: tert-Butyl [3-(2-{3-[(5-bromo-2-chloropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate
This compound was prepared according to the procedure of Example B5, step G using 5-bromo-2,4-dichloropyrimidine and tert-butyl {3-[2-(3-aminophenyl)ethyl]phenyl}carbamate as the starting materials in 70% yield. LCMS calculated for C23H25BrClN4O2 (M+H)+: m/z=503.1, 505.1.

reactant | 5-bromo-2,4-dichloropyrimidine | BrC=1C(=NC(=NC1)Cl)Cl | C4HBrCl2N2
reactant | tert-butyl {3-[2-(3-aminophenyl)ethyl]phenyl}carbamate | NC=1C=C(C=CC1)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C19H24N2O2
product | tert-Butyl [3-(2-{3-[(5-bromo-2-chloropyrimidin-4-yl)amino]phenyl}ethyl)phenyl]carbamate | 70% yield | BrC=1C(=NC(=NC1)Cl)NC=1C=C(C=CC1)CCC=1C=C(C=CC1)NC(OC(C)(C)C)=O | C23H24BrClN4O2
